US09290490B2
A flask containing THF (78 mL) was cooled to −78° C. LDA (1.8 M in THF/heptane/ethylbenzene, 21.7 mL, 39.1 mmol) was added followed by a solution of N-[3-methyl-5-(1,3-thiazol-5-yl)phenyl]-4-(trifluoromethyl)pyrimidin-2-amine (2.63 g, 7.82 mmol) in THF (25 mL). The resulting solution was allowed to stir at −78° C. for thirty minutes. A solution of butyl trans-4-acetylcyclohexanecarboxylate (2.65 g, 11.73 mmol) in THF (10 mL) was added in one portion and the solution was stirred for 1 hour at −78° C. The reaction was then diluted with water and allowed to warm to room temperature. The mixture was then diluted with water and ethyl acetate. The organic layer was separated, dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by chromatography on silica gel to afford racemic butyl trans-4-{1-hydroxy-1-[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}-phenyl)-1,3-thiazol-2-yl]ethyl}cyclohexanecarboxylate. MS ESI calc'd. for C28H34F3N4O3S [M+H]+ 563. found 563. 1H NMR (500 MHz, DMSO-d6) δ 10.24 (s, 1H), 8.83 (d, J=4.9, 1H), 7.98-7.91 (m, 2H), 7.45 (s, 1H), 7.27 (d, J=4.9, 1H), 7.14 (s, 1H), 5.84 (s, 1H), 3.96 (t, J=6.5, 2H), 2.31 (s, 3H), 2.16-2.06 (m, 1H), 1.99-1.79 (m, 2H), 1.64 (s, 1H), 1.58-1.44 (m, 6H), 1.32-1.18 (m, 6H), 1.04 (d, J=13.1, 1H), 0.85 (t, J=7.4, 3H). rhSyk=+++

reactant | LDA | 39.1 mmol, 1.8 M, 21.7 mL | [Li+].CC(C)[N-]C(C)C
reactant | N-[3-methyl-5-(1,3-thiazol-5-yl)phenyl]-4-(trifluoromethyl)pyrimidin-2-amine | 7.82 mmol, 2.63 g | CC=1C=C(C=C(C1)C1=CN=CS1)NC1=NC=CC(=N1)C(F)(F)F | C15H11F3N4S
reactant | butyl trans-4-acetylcyclohexanecarboxylate | 11.73 mmol, 2.65 g | C(C)(=O)[C@@H]1CC[C@H](CC1)C(=O)OCCCC | C13H22O3
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 78 mL | C1CCOC1 | C4H8O
product | racemic butyl trans-4-{1-hydroxy-1-[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}-phenyl)-1,3-thiazol-2-yl]ethyl}cyclohexanecarboxylate | OC(C)(C=1SC(=CN1)C1=CC(=CC(=C1)NC1=NC=CC(=N1)C(F)(F)F)C)[C@@H]1CC[C@H](CC1)C(=O)OCCCC | C28H33F3N4O3S
